US05162532
To a solution of N,N,N'-trimethylethylenediamine (2.46 mL, 19.23 mmol) in 15 mL of 1,2-dimethoxyethane at mL 23° C. was added n-BuLi (9.22 mL, 19.23 mmol), and the solution was stirred at -23° C. for 20 min. The mixture was transferred using a double-tipped needle to a solution of 6-chloro-2-methoxy-3-pyridinecarboxaldehyde (3.0 g, 17.5 mmol) in 40 mL of 1,2-dimethoxyethane at -23° C. After stirring for 15 min, n-BuLi (12.6 mL, 26.2 mmol) was added and the dark mixture was stirred an additional 2 h at -23° C. The solution was transferred using a double-tipped needle to a solution of iodine (8.04 g, 31.7 mmol) in 40 mL of 1,2-dimethoxyethane at -78° C. After stirring at -78° C. for 30 min, the cooling bath was removed and the reaction mixture was allowed to warm for 20 min, then quenched with water. The mixture was extracted with ether (2×30 mL) and the combined organic layers were washed successively with 30-mL portions of 10% aqueous Na2S2O3, water and brine, and dried over MgSO4. Concentration afforded 4.62 g (89%) of crude product to which was added 50 mL of hexanes. The mixture was stirred and allowed to stand at 5° C. overnight. Filtration gave 2.67 g of 6-Chloro-4-iodo-2-methoxy-3-pyridinecarboxaldehyde as a yellow solid: mp 120°-124° C. Concentration of the hexane washings and purification of the residue by radial preparative thin-layer chromatography (silica gel, 5% ethyl acetate/hexanes) gave an additional 1.41 g of product (mp 120°-124° C.), raising the total yield of the compound to 78%. Recrystallization from hexanes gave analytical sample as a bright yellow solid: mp 129°-130° C. 1H NMR (300 MHz, CDCl3) δ 10.16 (s, 1H), 7.59 (s, 1H), 4.07 (s, 1H); IR (nujol) 1690, 1350, 1260, 1095, 1010, 900, 840 cm-1.

reactant | N,N,N'-trimethylethylenediamine | 19.23 mmol, 2.46 mL | CN(CCNC)C | C5H14N2
reactant | n-BuLi | 19.23 mmol, 9.22 mL | [Li]CCCC
reactant | 6-chloro-2-methoxy-3-pyridinecarboxaldehyde | 17.5 mmol, 3.0 g | ClC1=CC=C(C(=N1)OC)C=O | C7H6ClNO2
reactant | n-BuLi | 26.2 mmol, 12.6 mL | [Li]CCCC
reactant | iodine | 31.7 mmol, 8.04 g | II | I2
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
product | 6-Chloro-4-iodo-2-methoxy-3-pyridinecarboxaldehyde | 2.67 g | ClC1=CC(=C(C(=N1)OC)C=O)I | C7H5ClINO2
